US08334235B2
N′-(2-Chloro-4-{[3-(1-chlorocyclopropyl)-1,2,4-thiadiazol-5-yl]oxy}-5-methylphenyl)-N-ethyl-N-methylimidoformamide
0.63 g (1.86 mmol) of 2-chloro-4-{[3-(1-chlorocyclopropyl)-1,2,4-thiadiazol-5-yl]oxy}-5-methylaniline is dissolved in 5 ml of toluene and treated with 0.50 g (3.71 mmol) of N-ethyl-N-methylformamide dimethyl acetal. The reaction mixture is refluxed for 12 h, subsequently cooled, freed from solvent under vacuum and purified by column chromatography. 0.62 g of product is obtained (82.0% purity, 71.3% yield; log P (pH 2.3)=1.62).

reactant | 2-chloro-4-{[3-(1-chlorocyclopropyl)-1,2,4-thiadiazol-5-yl]oxy}-5-methylaniline | 1.86 mmol, 0.63 g | ClC1=C(N)C=C(C(=C1)OC1=NC(=NS1)C1(CC1)Cl)C | C12H11Cl2N3OS
reactant | N-ethyl-N-methylformamide dimethyl acetal | 3.71 mmol, 0.50 g | COC(N(C)CC)OC | C6H15NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(2-Chloro-4-{[3-(1-chlorocyclopropyl)-1,2,4-thiadiazol-5-yl]oxy}-5-methylphenyl)-N-ethyl-N-methylimidoformamide | 0.62 g, 71.3% yield | ClC1=C(C=C(C(=C1)OC1=NC(=NS1)C1(CC1)Cl)C)N=CN(C)CC | C16H18Cl2N4OS
